US04523013
12 g (0.055 mol) of 4-benzoyl-2,6-dioxopiperazine are dissolved in 200 ml of dimethylformamide. 3.5 g (0.065 mol) of sodium methylate are added and the reaction medium is left for 1 hour at ambient temperature. To the reaction medium is added, dropwise and in an inert atmosphere, a solution of 16 g (0.080 mol) of (2-methane-sulphonyl ethyl)-benzene in 50 ml of dimethylformamide and is brought to 70° C. for 5 hours. Evaporation to dryness is carried out under vacuum and the residue is taken up in a mixture of water and dichloromethane. The decanted organic phase is dried over dry sodium sulphate. The evaporation of the solvent leaves an oily residue which is purified by silica column chromatography (elutrient: toluene/ethyl acetate 7/3). In this way, there is obtained the 4-benzoyl-2,6dioxo-1-phenethyl piperazine which, after recrystallisation from a cyclohexane/ethyl acetate mixture, melts at 102° C.

reactant | 4-benzoyl-2,6-dioxopiperazine | 0.055 mol, 12 g | C(C1=CC=CC=C1)(=O)N1CC(NC(C1)=O)=O | C11H10N2O3
reactant | sodium methylate | 0.065 mol, 3.5 g | C[O-].[Na+]
reactant | (2-methane-sulphonyl ethyl)-benzene | 0.080 mol, 16 g | CS(=O)(=O)CCC1=CC=CC=C1 | C9H12O2S
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 4-benzoyl-2,6dioxo-1-phenethyl piperazine | C(C1=CC=CC=C1)(=O)N1CC(N(C(C1)=O)CCC1=CC=CC=C1)=O | C19H18N2O3
